US07179809B2
(S)-2-[N-(2-aminopropyl)-N-methyl-amino]-3-(2-butyn-1-yl)-5-[(4-methyl-quinazolin-2-yl)methyl]-3,5-dihydro-imidazo[4,5-d]pyridazin-4-one
40 μl iodotrimethylsilane are added to a solution of 130 mg (S)-2-[(2-benzyloxycarbonylamino-prop-1-yl)amino]-3-(2-butyn-1-yl)-5-[(4-methyl-quinazolin-2-yl)methyl]-3,5-dihydro-imidazo[4,5-d]pyridazin-4-one in 3 ml dichloromethane. After stirring at ambient temperature for 1 and 3 h, a further 100 μl of iodotrimethylsilane are added on each occasion. The solution is stirred for a further 4 h at ambient temperature and then combined with 5 ml of methanol and evaporated down. Then 1 M hydrochloric acid is added and the aqueous phase is washed twice with dichloromethane. The aqueous phase is made alkaline with sodium carbonate and extracted three times with dichloromethane. The organic extracts are dried over sodium sulphate, the solvent is removed and the residue is purified through silica gel (dichloromethane/methanol 1:0−>3:1).

reactant | iodotrimethylsilane | 40 μl | I[Si](C)(C)C | C3H9ISi
reactant | (S)-2-[(2-benzyloxycarbonylamino-prop-1-yl)amino]-3-(2-butyn-1-yl)-5-[(4-methyl-quinazolin-2-yl)methyl]-3,5-dihydro-imidazo[4,5-d]pyridazin-4-one | 130 mg | C(C1=CC=CC=C1)OC(=O)N[C@H](CNC=1N(C2=C(C=NN(C2=O)CC2=NC3=CC=CC=C3C(=N2)C)N1)CC#CC)C | C30H30N8O3
reactant | iodotrimethylsilane | 100 μl | I[Si](C)(C)C | C3H9ISi
reactant | methanol | 5 ml | CO | CH4O
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
product | (S)-2-[N-(2-aminopropyl)-N-methyl-amino]-3-(2-butyn-1-yl)-5-[(4-methyl-quinazolin-2-yl)methyl]-3,5-dihydro-imidazo[4,5-d]pyridazin-4-one | N[C@H](CN(C)C=1N(C2=C(C=NN(C2=O)CC2=NC3=CC=CC=C3C(=N2)C)N1)CC#CC)C | C23H26N8O
